US07718668B2
(2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol hydrobromide
(2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol (1.2 g; 2.9 mmol) is dissolved in 7.2 ml of 4-methyl-2-pentanone. The solution is heated up to 60° C. 350 μl (3.05 mmol) of aqueous HBr (W=47%) are added. After crystallisation the suspension is stirred over night. The crystals are filtered off and dried to obtain 1.38 g (97%) of the title compound (m.p.: 163° C.).

reactant | (2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol | 2.9 mmol, 1.2 g | COC1=NC(=CC=C1C1=N[C@@H]2CC[C@H](C[C@@H]2C2=CC(=C(C=C12)OC)OCC)O)OC | C23H28N2O5
reactant | HBr | 3.05 mmol, 350 μl | Br | BrH
solvent | 4-methyl-2-pentanone | 7.2 ml | CC(CC(C)=O)C | C6H12O
product | (2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol hydrobromide | 1.38 g, 97% | Br.COC1=NC(=CC=C1C1=N[C@@H]2CC[C@H](C[C@@H]2C2=CC(=C(C=C12)OC)OCC)O)OC | InChI=1S/C23H28N2O5.BrH/c1-5-30-20-11-15-16-10-13(26)6-8-18(16)24-22(17(15)12-19(20)27-2)14-7-9-21(28-3)25-23(14)29-4;/h7,9,11-13,16,18,26H,5-6,8,10H2,1-4H3;1H/t13-,16-,18-;/m1./s1
